US05273982
N-(t-butoxycarbonyl)-L-aspartic acid 1-benzyl ester was coupled with β-alanine benzyl ester to give 3-[[2-[(benzyloxy)carbonyl]ethyl]carbamoyl]-N-(t-butoxycarbonyl)-L-alanine benzyl ester, m.p. 77°-78° C.

reactant | N-(t-butoxycarbonyl)-L-aspartic acid 1-benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC(=O)O)=O | C16H21NO6
reactant | β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCN)=O | C10H13NO2
product | 3-[[2-[(benzyloxy)carbonyl]ethyl]carbamoyl]-N-(t-butoxycarbonyl)-L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC(NCCC(=O)OCC1=CC=CC=C1)=O)=O | C26H32N2O7
